### PR TITLE
Canonical order structures on {set T}

### PR DESCRIPTION
**Pull request by hivert**
##### Motivation for this change

Sets are ordered by the inclusion. I add the corresponding canonical structure together with the lemma translating the generic
order operators to the specialized one (e.g. ``&`` to `:&:`

##### Things done/to do

- [X] added corresponding entries in `CHANGELOG_UNRELEASED.md` (do not edit former entries)
- [X] added corresponding documentation in the headers

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and make sure there is a milestone.

### CODE REVIEW

**Comment by hivert** [comment]
There something wrong with multinomials but I don't thing it's related to this PR.

File: CHANGELOG_UNRELEASED.md [hunk 1]
```diff
@@ -60,6 +60,11 @@ The format is based on [Keep a Changelog](https://keepachangelog.com/en/1.0.0/).
     current interface, which requires `finOrderType` structures to be
     nonempty, the `finOrderType` is only defined for ordinal which are
     manifestly nonempty (i.e. `'I_n.+1`).
+  + we provide a canonical finite complemented distributive lattice structure
+    on finite set ({set T}) ordered by inclusion and lemmas
+    `leEsubset`, `meetEsubset`, `joinEsubset`, `botEsubset`, `topEsubset`
+    `subEsubset`, complEsubset` to translate generic symbols to the
```
Comment (proux01) [inline CHANGELOG_UNRELEASED.md:66]:
```suggestion
    `subEsubset`, `complEsubset` to translate generic symbols to the
```

File: mathcomp/ssreflect/order.v [hunk 2]
```diff
@@ -7884,6 +7895,160 @@ End DualOrderTheory.
 
 End DualOrder.
 
+
```
Comment (proux01) [inline mathcomp/ssreflect/order.v:7898]:
```suggestion
```

File: mathcomp/ssreflect/order.v [hunk 3]
```diff
@@ -7884,6 +7895,160 @@ End DualOrderTheory.
...
+Proof. by rewrite setUC setKU. Qed.
+
+Lemma setKIC B A : A :|: (A :&: B) = A.
+Proof. by rewrite setIC setKI. Qed.
+
+Definition t_distrLatticeMixin :=
+  MeetJoinMixin le_def (fun _ _ => erefl _) (@setIC _) (@setUC _)
+                (@setIA _) (@setUA _) setKUC setKIC (@setIUl _) (@setIid _).
+
+
```
Comment (proux01) [inline mathcomp/ssreflect/order.v:7924]:
```suggestion
```

File: mathcomp/ssreflect/order.v [hunk 4]
```diff
@@ -7884,6 +7895,160 @@ End DualOrderTheory.
...
+Definition botEsubset := @botEsubset.
+Definition topEsubset := @topEsubset.
+Definition subEsubset := @subEsubset.
+Definition complEsubset := @complEsubset.
+
+End Exports.
+End SetSubsetOrder.
+Export SetSubsetOrder.Exports.
+
+
```
Comment (proux01) [inline mathcomp/ssreflect/order.v:8016]:
```suggestion
```

File: mathcomp/ssreflect/order.v [hunk 5]
```diff
@@ -7884,6 +7895,160 @@ End DualOrderTheory.
...
+  [finLatticeType of {set T}].
+Canonical subset_finDistrLatticeType (T : finType) :=
+  [finDistrLatticeType of {set T}].
+Canonical subset_finCDistrLatticeType (T : finType) :=
+  [finCDistrLatticeType of {set T}].
+
+End DefaultSetSubsetOrder.
+End DefaultSetSubsetOrder.
+
+
```
Comment (proux01) [inline mathcomp/ssreflect/order.v:8051]:
```suggestion
```

**Comment by hivert** [comment]
Thanks @proux01 for the careful review !

**Comment by hivert** [comment]
Any confirmation that the failing of multinomials is not due to me ?

**Comment by proux01** [comment]
Indeed it's actually due to multinomials using dune which prompted math-comp/multinomials#45 which requires `/usr/bin/env` that doesn't seem available in nix. That's definitely unrelated.

File: mathcomp/ssreflect/order.v [hunk 6]
```diff
@@ -7884,6 +7895,156 @@ End DualOrderTheory.
...
+(*********************************************)
+(* We declare a "copy" of the sets,          *)
+(* which is canonically ordered by inclusion *)
+(*********************************************)
+Module SetSubsetOrder.
+Section SetSubsetOrder.
+
+Definition type (disp : unit) (T : finType) := {set T}.
+Context {disp : unit} {T : finType}.
+Local Notation "{ 'subset' T }" := (type disp T) (at level 2) : order_scope.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/order.v:7907]: This setup prevents using `{subset T}` when `T` has type `Type` but is canonically a `finType`. Please mimick the definition in `finset.v` to generalize the notation using a phantom type.

Comment (hivert) [reply mathcomp/ssreflect/order.v]: This should be done now. I wasn't sure about the notation `{subset T}` so that I forgot to goes all the way to set it up properly. I guess you agree with it since you didn't comment.

**Comment by erikmd** [comment]
> Indeed it's actually due to multinomials using dune which prompted [math-comp/multinomials#45](https://github.com/math-comp/multinomials/pull/45) which requires `/usr/bin/env` that doesn't seem available in nix. That's definitely unrelated.

@CohenCyril is there something to do upstream in multinomials to this aim? e.g., replacing `/usr/bin/env` in the configure script with `/bin/bash`?

**Comment by proux01** [comment]
> @CohenCyril is there something to do upstream in multinomials to this aim? e.g., replacing `/usr/bin/env bash` in the configure script with `/bin/bash`?

@erikmd no, that wouldn't help, @CohenCyril fixed the nixpkg package https://github.com/NixOS/nixpkgs/pull/140150 so there is nothing to do, this should now work

**Comment by CohenCyril** [comment]
> @CohenCyril is there something to do upstream in multinomials to this aim? e.g., replacing `/usr/bin/env bash` in the configure script with `/bin/bash`?

The failure of multinomials is now on the docker side. I'm ignoring for now.
